US04429140
A powdery reaction mixture is obtained in the same manner as in Example 8 with the exception of using 24.0 g of xylitol, 41.5 g of p-chlorobenzaldehyde, 0.5 g of 50% sulfuric acid, 60 ml of trichloroethylene and 18 ml of dioxane. The mixture is similarly after-treated, affording di-(p-chlorobenzylidene)xylitol in a yield of 92% with a purity of 97%.

reactant | xylitol | 24.0 g | C([C@H](O)[C@@H](O)[C@H](O)CO)O | C5H12O5
reactant | p-chlorobenzaldehyde | 41.5 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | sulfuric acid | 0.5 g | S(O)(O)(=O)=O | H2O4S
reactant | trichloroethylene | 60 ml | ClC=C(Cl)Cl | C2HCl3
solvent | dioxane | 18 ml | O1CCOCC1 | C4H8O2
product | di-(p-chlorobenzylidene)xylitol | yield of 92% | ClC1=CC=C(C=C([C@H]([C@@H]([C@H](C(O)=CC2=CC=C(C=C2)Cl)O)O)O)O)C=C1 | C19H18Cl2O5
